US03954732
A mixture of 2,2,2-trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (1.08 g), sodium azide (0.26 g), acetone (20 ml) and water (4 ml) was stirred for 4 hours at room temperature. After acetone was distilled off under reduced pressure, the residue was extracted with ethyl acetate. The ethyl acetate layer was washed with water, with saturated sodium bicarbonate aqueous solution and further with water and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure and a small quantity of ether was added to the residue to give colorless crystals of 2,2, 2-trichloroethyl 3-azido-3-methyl-7-(2-phenylacetamido)cepham-4-carboxylate (170 mg). This substance was recrystallized from carbon tetrachloride to give crystals melting at 136° to 140°C.

reactant | 2,2,2-trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 1.08 g | BrCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18BrCl3N2O4S
reactant | sodium azide | 0.26 g | [N-]=[N+]=[N-].[Na+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 4 ml | O | H2O
product | 2,2, 2-trichloroethyl 3-azido-3-methyl-7-(2-phenylacetamido)cepham-4-carboxylate | 170 mg | N(=[N+]=[N-])C1(CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18Cl3N5O4S
